US04419352
(a) 6-ureido-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid
Diethyl 6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate (1 g) and urea (50 g) were fused together at 175° C. for 6 hours. The solid after cooling was added to 70% sulphuric acid (200 ml) and heated on a steambath for 8 hours. The mixture was poured into ice-water (2 liters) and the precipitate was collected and washed well with water to afford the sub-title compound (0.15 g): identified by NMR spectroscopy.

reactant | Diethyl 6-chloro-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylate | 1 g | ClC1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)OCC)=O)CCC)C(=O)OCC | C21H20ClNO6
reactant | urea | 50 g | NC(=O)N | CH4N2O
reactant | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
product | 6-ureido-4-oxo-10-propyl-4H-pyrano[3,2-g]quinoline-2,8-dicarboxylic acid | 0.15 g | N(C(=O)N)C1=CC(=NC2=C(C3=C(C=C12)C(C=C(O3)C(=O)O)=O)CCC)C(=O)O | C18H15N3O7
